US07750003B2
3-[(1-Methylpyrazol-4-yl)methyl]-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]urea
(4-Aminophenyl)boronic acid pinacol ester (200 mg) was dissolved in dry THF (5 mL) and sodium bicarbonate (116 mg) added followed by the dropwise addition of phenylchloroformate (0.115 mL). The mixture was stirred at RT for 1 hour. (1-Methylpyrazol-4-yl)methanamine (102 mg) was added and the reaction left to stir at RT for 2 h before being heated to 40° C. for 16 h. The mixture was concentrated in vacuo and the residue partitioned between DCM (25 mL) and water (25 mL). The organics were dried over magnesium sulphate, filtered and vacuumed to dryness. The material was chromatographed on silica, eluting with ethyl acetate, to give the desired material (232 mg) as a white solid.

reactant | (4-Aminophenyl)boronic acid pinacol ester | 200 mg | NC1=CC=C(C=C1)B1OC(C)(C)C(C)(C)O1 | C12H18BNO2
reactant | sodium bicarbonate | 116 mg | C([O-])(O)=O.[Na+]
reactant | phenylchloroformate | 0.115 mL | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
reactant | (1-Methylpyrazol-4-yl)methanamine | 102 mg | CN1N=CC(=C1)CN | C5H9N3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-[(1-Methylpyrazol-4-yl)methyl]-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]urea | 232 mg | CN1N=CC(=C1)CNC(NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C18H25BN4O3
